### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Grothendieck): `Grothendieck.pre` for Grothendieck construction base change

### PR DESCRIPTION
**Pull request by javra**
Needed in order to use the Grothendieck construction as a way to express dependent double colimits. This also makes the following changes:
* Improves `Grothendieck.comp_base` to trigger without using `erw` (by deriving it manually instead of by `@[simps]`
* Generalizes `IsConnected.zigzag_obj_of_zigzag` from functors to prefunctors since proving functoriality at use sites makes no sense (since we throw away the data anyway and just keep a disjunction of a `Nonempty` of morphism types.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/IsConnected.lean [hunk 1]
```diff
@@ -327,7 +327,7 @@ def Zigzag.setoid (J : Type u₂) [Category.{v₁} J] : Setoid J where
 /-- If there is a zigzag from `j₁` to `j₂`, then there is a zigzag from `F j₁` to
 `F j₂` as long as `F` is a functor.
 -/
-theorem zigzag_obj_of_zigzag (F : J ⥤ K) {j₁ j₂ : J} (h : Zigzag j₁ j₂) :
+theorem zigzag_obj_of_zigzag (F : J ⥤q K) {j₁ j₂ : J} (h : Zigzag j₁ j₂) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/IsConnected.lean:330]: Do you really need the prefunctor version? I would suggest defining the prefunctor version as `zigzag_prefunctor_obj_of_zigzag`, while keeping the name `zigzag_obj_of_zigzag` for the functor version.

Comment (javra) [reply Mathlib/CategoryTheory/IsConnected.lean:330]: I don't strictly need it because the prefunctor used in the construction is indeed a functor, but the proof is quite painful and the functoriality is not used at all.

Will revert as you proposed even though I think that `Zigzag`s are an inherently non-functorial construction since they're chains of existence proofs of morphisms without any coherence whatsoever.

File: Mathlib/CategoryTheory/Limits/Final.lean [hunk 2]
```diff
@@ -861,4 +862,46 @@ instance CostructuredArrow.initial_pre (T : C ⥤ D) [Initial T] (S : D ⥤ E) (
...
+    StructuredArrow d G ⥤q StructuredArrow ⟨d, f⟩ (pre F G) where
+  obj := fun X => StructuredArrow.mk (Y := ⟨X.right, (F.map X.hom).obj f⟩)
+    (Grothendieck.Hom.mk (by exact X.hom) (by dsimp; exact 𝟙 _))
+  map := fun g => StructuredArrow.homMk
+    (Grothendieck.Hom.mk (by exact g.right)
+      (eqToHom (by dsimp; rw [← StructuredArrow.w g, map_comp, Cat.comp_obj])))
+    (by simp only [StructuredArrow.mk_right]
+        apply Grothendieck.ext <;> simp)
+
+instance Grothendieck.pre_final [hG : Final G] : (Grothendieck.pre F G).Final := by
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/Final.lean:885]:
```suggestion
instance Grothendieck.final_pre [hG : Final G] : (Grothendieck.pre F G).Final := by
```

**Review by TwoFX — APPROVED** [review]
Thanks!
bors d+
